US05064844
2,6-Dichloro-4-trifluoromethylphenylhydrazine was reacted with 2,3-dioxobutyranilide 2-oxime, in a similar manner to above to give 2,3-dioxobutyranilide 3-(2,6-dichloro-4-trifluoromethylphenylhydrazone) 2-oxime, m.p. 185°-186°. This was then treated with acetic anhydride in acetic acid to give 2,3-dioxobutyranilide 2-acetyloxime 3-(2,6-dichloro-4-trifluoromethylphenylhydrazone). This was cyclised with caesium carbonate to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-5-methyl-2H-1,2,3-triazole-4-carboxanilide, m.p. 185°-186°.

reactant | 2,6-Dichloro-4-trifluoromethylphenylhydrazine | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | 2,3-dioxobutyranilide 2-oxime | N(O)=C(C(=O)NC1=CC=CC=C1)C(C)=O | C10H10N2O3
product | 2,3-dioxobutyranilide 3-(2,6-dichloro-4-trifluoromethylphenylhydrazone) 2-oxime | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C(C(=O)NC1=CC=CC=C1)=NO)C | C17H13Cl2F3N4O2
